US05061794
Preparation of sodium 7β-[2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-[5-( 4-hydroxyphenyl)-oxazol-2-yl]thiomethyl-3-cephem-4-carboxylate (syn-isomer)
The same operation as in EXAMPLE 65 was conducted by using 840 mg (1.0 mmol) of benzhydryl 3-chloromethyl-7β-[2-methoxyimino-2-( 2-tritylaminothiazol-4-yl)acetamido]-3-cephem-4-carboxylate (syn-isomer), 225 mg (1.5 mmol) of sodium iodide and 193 mg (1.0 mmol) of 5-(4-hydroxyphenyl)-2mercaptooxazole, whereby 55 mg (yield: 9.0%) of the above identified compound was obtained.

reactant | benzhydryl 3-chloromethyl-7β-[2-methoxyimino-2-( 2-tritylaminothiazol-4-yl)acetamido]-3-cephem-4-carboxylate | 1.0 mmol, 840 mg | ClCC=1CS[C@H]2N(C1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C([C@H]2NC(C(C=2N=C(SC2)NC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=NOC)=O)=O | C46H38ClN5O5S2
reactant | sodium iodide | 1.5 mmol, 225 mg | [I-].[Na+]
reactant | 5-(4-hydroxyphenyl)-2mercaptooxazole | 1.0 mmol, 193 mg | OC1=CC=C(C=C1)C1=CN=C(O1)S | C9H7NO2S
product | sodium 7β-[2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-[5-( 4-hydroxyphenyl)-oxazol-2-yl]thiomethyl-3-cephem-4-carboxylate | yield: 9.0% | NC=1SC=C(N1)C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)CSC=2OC(=CN2)C2=CC=C(C=C2)O)C(=O)[O-])C1=O)=NOC.[Na+] | InChI=1S/C23H20N6O7S3.Na/c1-35-28-15(13-9-38-22(24)26-13)18(31)27-16-19(32)29-17(21(33)34)11(7-37-20(16)29)8-39-23-25-6-14(36-23)10-2-4-12(30)5-3-10;/h2-6,9,16,20,30H,7-8H2,1H3,(H2,24,26)(H,27,31)(H,33,34);/q;+1/p-1/t16-,20-;/m1./s1
